US08629270B2
tert-Butyl 3-(benzoylcarbamothioylamino)-3-(2-fluorophenyl)-4-(hydroxymethyl)pyrrolidine-1-carboxylate
To three separate reaction vessels, each containing racemic tert-butyl 3-amino-3-(2-fluorophenyl)-4-(hydroxymethyl)pyrrolidine-1-carboxylate (0.142 g, 4.58 mmol) and tetrahydrofuran (18 mL), is added benzoyl isothiocyanate (0.784 g, 4.80 mmol). The solutions are stirred at 22° C., and stirred for 15 hours. The solvent is removed under a stream of nitrogen, the residues combined, and concentrated to provide the crude title compound, which is used without further purification. ES/MS (m/e): 474 (M+H).

reactant | racemic tert-butyl 3-amino-3-(2-fluorophenyl)-4-(hydroxymethyl)pyrrolidine-1-carboxylate | 4.58 mmol, 0.142 g | NC1(CN(CC1CO)C(=O)OC(C)(C)C)C1=C(C=CC=C1)F | C16H23FN2O3
reactant | benzoyl isothiocyanate | 4.80 mmol, 0.784 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
product | tert-Butyl 3-(benzoylcarbamothioylamino)-3-(2-fluorophenyl)-4-(hydroxymethyl)pyrrolidine-1-carboxylate | C(C1=CC=CC=C1)(=O)NC(=S)NC1(CN(CC1CO)C(=O)OC(C)(C)C)C1=C(C=CC=C1)F | C24H28FN3O4S
